US08119663B2
1-tert-butyl 3-ethyl 5-(4-methoxyphenyl)piperidine-1,3-dicarboxylate [racemic cis/trans isomer mixture]
5.2 g (17.8 mmol) of ethyl 5-(4-methoxyphenyl)piperidine-3-carboxylate were dissolved in 12 ml of dichloromethane, and 3.88 g (17.8 mmol) of di-tert-butyl dicarbonate were added at RT. The reaction mixture was stirred at RT for 1 h. For work-up, the mixture was twice washed with water. The organic phase was dried over sodium sulphate and concentrated under reduced pressure. Yield: 6.8 g (81% of theory)

reactant | ethyl 5-(4-methoxyphenyl)piperidine-3-carboxylate | 17.8 mmol, 5.2 g | COC1=CC=C(C=C1)C1CC(CNC1)C(=O)OCC | C15H21NO3
reactant | di-tert-butyl dicarbonate | 17.8 mmol, 3.88 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | 1-tert-butyl 3-ethyl 5-(4-methoxyphenyl)piperidine-1,3-dicarboxylate | COC1=CC=C(C=C1)C1CC(CN(C1)C(=O)OC(C)(C)C)C(=O)OCC | C20H29NO5
